US08133909B2
(S)-2-Hydroxy-N-(2-methyl-benzooxazol-6-yl)-2-phenyl-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide
In analogy to example 49, 2-Methyl-benzooxazol-6-ylamine, (6-Trifluoromethyl-pyridin-3-yl)-acetonitrile & (S)-(+)-O-acetyl-L-mandelic acid were successively coupled and hydrolysed to give the target compound. MS(m/e): 456.1 [M+H]+.

reactant | 2-Methyl-benzooxazol-6-ylamine | CC=1OC2=C(N1)C=CC(=C2)N | C8H8N2O
reactant | (6-Trifluoromethyl-pyridin-3-yl)-acetonitrile | FC(C1=CC=C(C=N1)CC#N)(F)F | C8H5F3N2
reactant | (S)-(+)-O-acetyl-L-mandelic acid | C(C)(=O)OC([C@@H](O)C1=CC=CC=C1)=O | C10H10O4
product | (S)-2-Hydroxy-N-(2-methyl-benzooxazol-6-yl)-2-phenyl-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide | O[C@H](C(=O)N(CCC=1C=NC(=CC1)C(F)(F)F)C1=CC2=C(N=C(O2)C)C=C1)C1=CC=CC=C1 | C24H20F3N3O3
